US04634704
A mixture of 11 parts of 4-chlorobutanenitrile, 48.5 parts of 1-(4-fluorophenylmethyl)-N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide, 30 parts of sodium carbonate and 270 parts of DMF was stirred and heated overnight at 70° C. The reaction mixture was poured into water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized twice from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane, yielding 2.2 parts (80%) of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinebutanenitrile; mp. 130.5° C. (90).

reactant | 4-chlorobutanenitrile | ClCCCC#N | C4H6ClN
reactant | 1-(4-fluorophenylmethyl)-N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide | Br.Br.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinebutanenitrile | 80% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCCC#N | C23H26FN5
